US05070087
(4-Fluorophenyl)[1-(phenylsulfonyl)-4-piperidinyl]methanone
A mixture of 4-(4-fluorobenzoyl)piperidine hydrochloride (53.3, 0.219 mole and benzenesulfonyl chloride (44 g, 0.25 mole) in 500 ml of pyridine was stirred at room temperature overnight. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was extracted with dilute sulfuric acid and then was dried over magnesium sulfate. The volume was reduced to 400 ml, hexane was added and 39.2 g (50.6%) of the title compound was collected as a white, crystalline solid, mp 156.5°-158° C.

reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | benzenesulfonyl chloride | 0.25 mole, 44 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | (4-Fluorophenyl)[1-(phenylsulfonyl)-4-piperidinyl]methanone | FC1=CC=C(C=C1)C(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C18H18FNO3S
